data/oMe_Silver.jsonl
{"reaction_id": "NR-125_1-c1ccsc1","name": "Kochi Reaction","level": "medium","reactants_smiles": ["C(Cc1ccsc1)(=O)O","CC(=O)O[Pb](OC(C)=O)(OC(C)=O)OC(C)=O","[Li+].[Cl-]"],"products_smiles": ["C(c1ccsc1)(Cl)"],"conditions": "","mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(Cc1ccsc1)(=O)O[Pb](OC(=O)C)(OC(=O)C)OC(=O)C","rationale": "Lead(IV) acetate acts as a strong electrophile, coordinating to the carboxylate oxygen; this facilitates displacement of acetate ligands due to Pb’s high oxidation state and strong affinity for oxygen donors."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(Cc1ccsc1)(=O)O(Cl)","rationale": "Chloride, a good nucleophile under these conditions, attacks the activated acyl intermediate, displacing the lead group due to its excellent leaving group ability and forming the more reactive acyl hypochlorite."},{"step": 3,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "c1ccsc1[C]","rationale": "The weak O–Cl bond in the acyl hypochlorite undergoes homolytic cleavage under thermal or light activation, favored by the stability of the resulting alkyl radical and CO₂ extrusion."},{"step": 4,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "C(c1ccsc1)(Cl)","rationale": "The alkyl radical rapidly reacts with chlorine radical, driven by the high reactivity of radicals and the formation of a strong C–Cl bond, completing the radical substitution."}],"description": "The Kochi reaction proceeds via lead(IV) acetate activation of the carboxylic acid, chloride substitution to form an acyl hypochlorite, homolytic cleavage to generate an alkyl radical, and radical chlorination to yield the alkyl chloride product."}
